US07384934B2
Dissolve 2-amino-5-methyl-thiophene-3-carbonitrile (0.79 g, 5.7 mmol) and 2-fluoro-4-chloronitrobenzene (1 g, 5.7 mmol) in dimethylsulfoxide (15 ml) and stir under nitrogen. Add lithium hydroxide monohydrate (250 mg, 6 mmol) and heat the mixture in an oil bath at 60° C. overnight. Pour the mixture into sat. NH4Cl(aq), extract into ethyl acetate, dry (MgSO4) and concentrate under reduced pressure. Chromatography on silica gel (eluent cyclohexane/ethylacetate) gives 2-(5-chloro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile as a yellow solid (0.58 g, 35%): NMR (1H, 300 MHz, CDCl3): δ 9.6 (1H broad), 8.21 (1H,d), 7.09 (1H, s), 6.92 (1H,d), 6.80 (1H, s), 2.49 (3H,s).

reactant | 2-amino-5-methyl-thiophene-3-carbonitrile | 5.7 mmol, 0.79 g | NC=1SC(=CC1C#N)C | C6H6N2S
reactant | 2-fluoro-4-chloronitrobenzene | 5.7 mmol, 1 g | FC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H3ClFNO2
reactant | lithium hydroxide monohydrate | 6 mmol, 250 mg | O.[OH-].[Li+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | 2-(5-chloro-2-nitro-phenylamino)-5-methyl-thiophene-3-carbonitrile | 0.58 g, 35% | ClC=1C=CC(=C(C1)NC=1SC(=CC1C#N)C)[N+](=O)[O-] | C12H8ClN3O2S
